US08937092B2
To a stirred solution of 2-(4-cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (305 mg, 0.72 mmol) in ethanol was cooled to 0° C. and added NiCl2.6H2O (17 mg, 0.072 mmol) and stirred more then 15 min. Sodium borohydride (191 mg, 5.04 mmol) was then added in small portions. The reaction was exothermic and effervescent. The resulting reaction mixture was allowed to warm to room temperature and left to stir for 2 hour. The mixture was filtered using celite pad. The filtrate was concentrated was evaporated. The residue was dissolved in ethylacetate and washed with water and brine, but when it does not separate easily, small amount of 1N HCl and saturated NaHCO3 was used. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. 2-(4-(Aminomethyl)phenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (167 mg) was obtained as 64% yield.

reactant | 2-(4-cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 0.72 mmol, 305 mg | C(#N)C1=CC=C(C=C1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C | C24H20F3N3O
reactant | Sodium borohydride | 5.04 mmol, 191 mg | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-(Aminomethyl)phenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 167 mg, 64% yield | NCC1=CC=C(C=C1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C | C24H24F3N3O
